* Z:\mnt\design.r\spice\examples\4295.asc
L1 N030 0 8.02µ
R1 N030 N029 5.9K
R2 N029 0 1.96K
R3 N017 0 30m
C1 N004 N009 100p
L2 N009 N004 26µ
L3 N005 N010 1.284µ
M§Q1 N010 N013 0 0 PSMN2R430MLD
C2 0 N027 3.3n
C3 N023 N022 1µ
M§Q2 N009 N016 N017 N017 BSZ900N20NS3
C4 N005 0 47µ x2
L4 OUT N005 180n
C5 OUT 0 47µ
L5 0 N023 785µ
C6 N025 N024 2.2n
L6 0 N024 785µ
R4 N025 0 10K
D1 0 N025 RB068L100
R5 N018 N025 15
Q3 0 N018 N013 0 2N3906
Q4 OUT N018 N013 0 2N3904
R6 N002 N014 8.2
C7 N011 0 10n
M§Q5 N002 N011 N003 N003 BSC265N10LSF
D2 N001 N002 MURS120
C8 N003 0 10µ
L7 N003 N004 10µ
C9 N004 0 2.2µ
R7 0 N015 7.5K
R8 N006 N004 20
Q6 N007 N012 N006 0 2SA1579
C10 N008 0 10µ
L8 N007 N008 100µ
D3 0 N007 1N5817
R9 N019 0 35.7
C11 N020 0 0.01µ
R10 N026 0 51K
V1 PSE 0 PWL(0 0 10m 7 160m 7 170m 5 325m 5 330m 8 360m 8 370m 6 400m 6 401m 17 415m 17 416m 6 420m 6 421m 17 425m 17 426m 6 430m 6 431m 17 435m 17 436m 6 440m 6 441m 17 445m 17 446m 6 450m 6 451m 17 455m 17 456m 6 460m 6 461m 57)
R11 N028 0 10K
C12 0 N010 1n
C13 N014 0 .1µ
R12 N021 0 107K
XU1 0 0 N019 NC_01 N028 N008 MP_02 MP_03 MP_04 N021 N020 N015 N027 N029 N026 0 N017 N022 MP_05 N016 MP_06 MP_07 N012 N004 N003 N011 MP_08 N014 LT4295
Rline N001 PSE 6.25
Rload OUT 0 .72
.model D D
.lib C:\users\brian\My Documents\LTspiceXVII\lib\cmp\standard.dio
.model NPN NPN
.model PNP PNP
.lib C:\users\brian\My Documents\LTspiceXVII\lib\cmp\standard.bjt
.model NMOS NMOS
.model PMOS PMOS
.lib C:\users\brian\My Documents\LTspiceXVII\lib\cmp\standard.mos
.tran  492m
K1 L1 L2 L3 1.
* 5V @ 7A
K2 L5 L6 1.
* Diode Bridge
.lib LT4295.sub
.backanno
.end
